US06949648B2
2-[[3-Methyl-1-(2-pyridinyl)-1H-pyrazol-5-yl]amino]benzoic acid
A solution of 2-(2-oxopropyl)-4H-3,1-benzoxazin-4-one (68.2 g, 0.34 mol) and 2-hydrazinopyridine (37.1 g, 0.34 mol) in ethanol (500 mL) was heated under reflux for 1 hour. After the solution was cooled to room temperature, the resulting crude crystals were filtered. The crystals were washed with ethanol and air-dried to give the title compound (50.2 g, 51% yield).

reactant | 2-(2-oxopropyl)-4H-3,1-benzoxazin-4-one | 0.34 mol, 68.2 g | O=C(CC1=NC2=C(C(O1)=O)C=CC=C2)C | C11H9NO3
reactant | 2-hydrazinopyridine | 0.34 mol, 37.1 g | N(N)C1=NC=CC=C1 | C5H7N3
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 2-[[3-Methyl-1-(2-pyridinyl)-1H-pyrazol-5-yl]amino]benzoic acid | 50.2 g, 51% yield | CC1=NN(C(=C1)NC1=C(C(=O)O)C=CC=C1)C1=NC=CC=C1 | C16H14N4O2
